US07989439B2
4-(Ethyl-{3-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]benzyl}amino)-1H-pyrazole-3-carboxamide is prepared by condensing 1-fluoro-2-isocyanato-4-trifluoromethylbenzene with 4-[(3-aminobenzyl)ethylamino]-1H-pyrazole-3-carboxamide according to the procedure described in Example 34, the latter derivative itself being prepared from 4-[(3-nitrobenzyl)ethylamino]-1H-pyrazole-3-carboxamide according to the procedure also described in Example 34.

reactant | 1-fluoro-2-isocyanato-4-trifluoromethylbenzene | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
reactant | 4-[(3-aminobenzyl)ethylamino]-1H-pyrazole-3-carboxamide | NC=1C=C(CCCNC=2C(=NNC2)C(=O)N)C=CC1 | C13H17N5O
reactant | 4-[(3-nitrobenzyl)ethylamino]-1H-pyrazole-3-carboxamide | [N+](=O)([O-])C=1C=C(CCCNC=2C(=NNC2)C(=O)N)C=CC1 | C13H15N5O3
product | 4-(Ethyl-{3-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]benzyl}amino)-1H-pyrazole-3-carboxamide | C(C)N(C=1C(=NNC1)C(=O)N)CC1=CC(=CC=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)F | C21H20F4N6O2
